US07468375B2
Step 3: 1-(4-Fluorobenzyl)-N-hydroxy-N-methyl-3-[(tetrahydro-2H-pyran-4-yloxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
The title compound was prepared as in example 116, step 3, using 1-(4-fluorobenzyl)-3-[(tetrahydro-2H-pyran-4-yloxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid, 2-chloro-4,6-dimethoxy-1,3,5-triazine, N-methyl morpholine, and N-methyl hydroxylamine hydrochloride. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.38-1.48 (m, 2H) 1.84-1.91 (m, 2H) 3.28-3.37 (m, J=10.74, 10.74, 2.78 Hz, 5H) 3.60 (ddd, J=8.84, 4.80, 4.55 Hz, 1H) 3.80 (ddd, J=11.49, 4.29, 4.17 Hz, 2H) 4.69 (s, 2H) 5.54 (s, 2H) 7.16 (t, J=8.97 Hz, 2H) 7.36 (dd, J=8.72, 5.43 Hz, 2H) 7.86 (s, 1H) 8.03 (s, 1H) 8.89 (s, 1H)

reactant | 1-(4-fluorobenzyl)-3-[(tetrahydro-2H-pyran-4-yloxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)COC3CCOCC3)C=C1 | C21H21FN2O4
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | N-methyl hydroxylamine hydrochloride | Cl.CNO
product | 1-(4-Fluorobenzyl)-N-hydroxy-N-methyl-3-[(tetrahydro-2H-pyran-4-yloxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)N(C)O)COC3CCOCC3)C=C1 | C22H24FN3O4
